Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Plaquenil
 
Attending: ___.
 
Chief Complaint:
BRBPR s/p polypectomy
 
Major Surgical or Invasive Procedure:
Colonoscopy ___

 
History of Present Illness:
___ with hx recurrent DVT/PE found to have ___ mutation 
maintained
on Coumadin who presents 1 week after a colonoscopy/polypectomy
with rectal bleeding. The patient had a polypectomy here 1 week
ago on ___. Had six polyps removed (4 clipped). Felt slightly
"off" over the weekend. Went to her PCP on ___ with left
leg swelling to rule out DVT which was negative by ultrasound.
Had a low INR on ___ and her Coumadin dose was increased.
Patient usually takes 5mg 6 days a week and 7.5mg on ___, and 
she
was told to take 7.5mg on ___.

Patient says on ___ and ___ she started seeing some blood
with her bowel movements, but today (___) she noted more 
blood
and got concerned and decided to call her doctor. No significant
abdominal pain. Reports feeling slightly SOB today. Denies any
melenic stool. No chest pain or LOC; does report feeling
lightheaded with standing. 
Patient denies urinary symptoms, such as dysuria, increased
frequency or urgency. Denies cough or respiratory symptoms.

On the floor, patient reports feeling a bit better, her 
shortness
of breath is improved. She denies anymore leg swelling or calf
pain (which made her see her PCP on ___. She denies urinary
symptoms. 

 
Past Medical History:
HTN
Recurrent DVT/PE, found to have prothrombin mutation
Colon polyps
Hx connective tissue d/o NOS, w/ arthritis and malar rash, prev
treated with plaquenil and azathioprine, stopped due to side
effects and reports overall minimal sxs at this time

 
Social History:
___
Family History:
Mother also had one stillborn infant but had total of 7 
children.
Older daughter has ___ mutation, thus far no thrombotic episodes
Has 6 siblings, one had blood clot after being immobilized
following a fracture, another brother had blood clot after 
period
of prolonged travel. Both tested negative for ___ mutation.
 
Physical Exam:
ADMISSION PHYSICAL EXAM: 
========================= 
VITALS: reviewed in POE 
General: Alert, oriented, no acute distress  
HEENT: Sclerae anicteric, MMM, oropharynx clear, EOMI, PERRL,
neck supple, JVP not elevated, no LAD  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs,
gallops  
Lungs: Clear to auscultation bilaterally, no wheezes, rales,
rhonchi  
Abdomen: Soft, non-tender, non-distended, bowel sounds present,
no organomegaly, no rebound or guarding  
GU: No foley  
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or
edema
Skin: Warm, dry, no rashes or notable lesions.   
Neuro: CNII-XII intact, ___ strength upper/lower extremities,
grossly normal sensation, 2+ reflexes bilaterally.   

DISCHARGE PHYSICAL EXAM:
=======================
Vitals: 97.9 128/78 58 18 95 RA 
General: Alert, oriented, no acute distress  
HEENT: Sclerae anicteric, MMM, oropharynx clear, EOMI, PERRL,
neck supple, JVP not elevated, no LAD  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs,
gallops  
Lungs: Clear to auscultation bilaterally, no wheezes, rales,
rhonchi  
Abdomen: Soft, non-tender, non-distended, no rebound or 
guarding,
bruises from lovenox shots. 
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or
edema
Skin: Warm, dry, no rashes or notable lesions.   
Neuro: AAOx3 strength and sensation intact
 
Pertinent Results:
ADMISSION LABS
=================
___ 02:30PM BLOOD WBC-3.6* RBC-4.30 Hgb-12.7 Hct-38.8 
MCV-90 MCH-29.5 MCHC-32.7 RDW-13.5 RDWSD-44.1 Plt ___
___ 02:30PM BLOOD Neuts-48.0 ___ Monos-8.6 Eos-3.1 
Baso-0.6 Im ___ AbsNeut-1.73 AbsLymp-1.42 AbsMono-0.31 
AbsEos-0.11 AbsBaso-0.02
___ 11:25AM BLOOD ___
___ 02:30PM BLOOD Glucose-124* UreaN-16 Creat-0.9 Na-143 
K-4.4 Cl-103 HCO3-28 AnGap-12
___ 02:30PM BLOOD ALT-119* AST-43* AlkPhos-70 TotBili-0.4
___ 02:30PM BLOOD Albumin-4.2

COLONOSCOPY REPORT
==================
___:
-No fresh or old blood was seen. Post polypectomy sites were 
carefully evaluated with previously placed endoclips found in 
the transverse, descending and cecum.  
-In the cecum was evidence of a high-risk lesion with stigmata 
of recent bleeding in an ulcerated post-polyectomy site with 
possible visible vessel. This was treated with two endoclips 
successfully with excellent hemostasis. 
-Two sessile polyps of benign appearance and ranging in size 
from 3 mm to 4 mm were found in the sigmoid colon. These were 
not removed because of patient's current post-polypectomy bleed. 
 
-Diverticulosis of the sigmoid colon.
-Otherwise normal colonoscopy to cecum.

DISCHARGE LABS
=================
___ 06:39AM BLOOD WBC-3.5* RBC-4.13 Hgb-12.4 Hct-38.3 
MCV-93 MCH-30.0 MCHC-32.4 RDW-13.6 RDWSD-46.2 Plt ___
___ 06:39AM BLOOD Plt ___
___ 06:39AM BLOOD Glucose-103* UreaN-12 Creat-0.8 Na-144 
K-5.0 Cl-106 HCO3-27 AnGap-11
___ 06:39AM BLOOD Calcium-9.4 Phos-3.3 Mg-2.___ with hx of HTN, prothrombin mutation and APLS complicated by 
recurrent DVT/PE (on Coumadin), who presented with rectal 
bleeding 1 week after a colonoscopy with polypectomy, admitted 
for repeat colonoscopy with definitive treatment of bleeding.

ACTIVE ISSUES
=============
# BRBPR S/p polypectomy
# Anticoagulation for APLS/Prothrombin mutation
Patient presented status post colonoscopy with polypectomy 
___. She is at high risk of clotting due to Hx of APLS, 
prothombin mutation, and two previous bilateral PEs, currently 
being bridged back to Coumadin from Lovenox. HD stable. Patient 
had colonoscopy on ___ which showed in the cecum evidence of a 
high-risk lesion with stigmata of recent bleeding in an 
ulcerated post-polyectomy site with possible visible vessel. 
This was treated with two endoclips successfully with excellent 
hemostasis. Two sessile polyps of benign appearance and ranging 
in size from 3 mm to 4 mm were found in the sigmoid colon. These 
were not removed because of patient's current post-polypectomy 
bleed. Diverticulosis of the sigmoid colon was noted. Hgb has 
been stable after the procedure and Lovenox ___ Q12 was 
restarted with a INR goal of 2.5-3.5.

#Lightheadedness
#SOB 
#Stable Bradycardia
Unclear etiology, possibly iso low resting heart rate. 
Infectious workup negative. Concern for PE given history, but 
patient is not hypoxic or tachycardic. Patient's symptoms have 
improved with hydration and she was at baseline by the time of 
discharge.

#Recurrent DVT/PE
#Hypercoagulable state ___ ___ mutation
INR goal is 2.5-3.5. Lovenox and Coumadin were initially held 
iso bleeding, but restarted after an uneventful procedure. 

#Transaminitis: New on admission from baseline normal level. 
Resolving by the time of discharge. 

CHRONIC ISSUES
==============
#Colonic polyps: S/p colonoscopy on ___, found to have 4 
sessile serrated
adenomas and 1 tubular adenoma. Non-malignant pathology. 

#HTN: Continued atenolol 25 mg 

#Depression: Continued escitalopram 10 mg 

#Leg swelling: Patient had LENIs on ___ which showed no DVT. 
She denies new calf pain or leg swelling with this admission.

TRANSITIONAL ISSUES:
-Discharge H/H = 12.___.3
-Discharge INR = 1.7
-Discharge anticoagulant regimen:
1. Warfarin 5mg 6 days a week (___) and 7.5mg on 
___
2. Lovenox ___ q12hrs until INR 2.5-3.5

-Patient had colonoscopy on ___ which showed:
1. Post polypectomy sites were carefully evaluated with 
previously placed endoclips found in the transverse, descending 
and cecum. 
2. In the cecum was evidence of a high-risk lesion with stigmata 
of recent bleeding in an ulcerated post-polyectomy site with 
possible visible vessel. This was treated with two endoclips 
successfully with excellent hemostasis. 
3. Two sessile polyps of benign appearance and ranging in size 
from 3 mm to 4 mm were found in the sigmoid colon. These were 
not removed because of patient's current post-polypectomy bleed. 

4. Diverticulosis of the sigmoid colon 
- Timing of next colonoscopy to be determined with Dr. ___ 
___ last note from ___ it is mentioned ___ years or sooner if 
she develops a change in bowel habits or rectal bleeding.) The 
exact timing will be evaluated at f/u appointment with Dr 
___.

CODE STATUS: Full (confirmed)
CONTACT: ___ (daughter) ___ 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Atenolol 25 mg PO DAILY 
2. Escitalopram Oxalate 10 mg PO DAILY 
3. Warfarin 2 mg PO 2X/WEEK (MO,TH) 
4. Warfarin 5 mg PO AS DIRECTED BY ___ CLINIC 
5. Enoxaparin Sodium 100 mg SC Q12H 
Start: ___, First Dose: Next Routine Administration Time 

 
Discharge Medications:
1.  Atenolol 25 mg PO DAILY  
2.  Enoxaparin Sodium 100 mg SC Q12H 
Start: ___, First Dose: Next Routine Administration Time  
3.  Escitalopram Oxalate 10 mg PO DAILY  
4.  Warfarin 5 mg PO 6X/WEEK (___)  
5.  Warfarin 7.5 mg PO 1X/WEEK (WE)  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS
Post-polypectomy bleeding

SECONDARY DIAGNOSIS 
Prothrombin mutation
Anti-phospholipid syndrome
Hypertension
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms ___,

It was a pleasure taking part in your care here at ___!

Why was I admitted to the hospital?
- You were admitted for bleeding after polyps were removed 
during your last colonoscopy.

What was done for me in the hospital?
- You underwent a colonoscopy on ___. Two clips were placed to 
stop bleeding of one of the polypectomy sites. 
- Your anticoagulation medicines were restarted after the 
procedure. 
 

What should I do when I leave the hospital?
- Please take your Lovenox and Warfarin every day as prescribed.
- Please have you INR checked on ___ as scheduled. Your Goal 
INR should be 2.5-3.5.

When should I return to the hospital?
- Please return if you have any more bleeding with your bowel 
movements.  

We wish you the best of luck in your health!

 

Sincerely,
 Your ___ Treatment Team

 
Followup Instructions:
___